US09315490B2
4-(1-(5-(2-Fluorophenyl)pyrimidin-2-yl)-3-methyl-1H-indole-6-carbonyl)piperazin-2-one (Compound No. 93)
EDCxHCl (150 μmol) and N,N-diisopropylethylamine (380 μmol) were added to a solution of 1-(5-(2-fluorophenyl)pyrimidin-2-yl)-3-methyl-1H-indole-6-carboxylic acid (100 μmol) and hydroxybenzothiazol (30 μmol) in dichloromethane (4 mL) and the mixture was stirred for 15 min at room temperature. The appropriate amine (125 μmol) was added and the reaction mixture was stirred for 16 h at room temperature. The reaction was stopped by addition of saturated sodium hydrogen carbonate solution (2.5 mL) and the mixture was extracted with dichloromethane (3×3 mL). The solvent was removed under reduced pressure and the residue purified by preparative HPLC to furnish the desired compound.

reactant | N,N-diisopropylethylamine | 380 μmol | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 1-(5-(2-fluorophenyl)pyrimidin-2-yl)-3-methyl-1H-indole-6-carboxylic acid | 100 μmol | FC1=C(C=CC=C1)C=1C=NC(=NC1)N1C=C(C2=CC=C(C=C12)C(=O)O)C | C20H14FN3O2
reactant | hydroxybenzothiazol | 30 μmol | OC=1SC2=C(N1)C=CC=C2 | C7H5NOS
reactant | sodium hydrogen carbonate | 2.5 mL | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 4 mL | ClCCl | CH2Cl2
product | 4-(1-(5-(2-Fluorophenyl)pyrimidin-2-yl)-3-methyl-1H-indole-6-carbonyl)piperazin-2-one | FC1=C(C=CC=C1)C=1C=NC(=NC1)N1C=C(C2=CC=C(C=C12)C(=O)N1CC(NCC1)=O)C | C24H20FN5O2
